US06579872B1
N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-chloromethylbenzamide
Using an analogous procedure to that described in Example 63, 3-chloromethylbenzoyl chloride was reacted with N-(3-amino-4-methylphenyl)-3-morpholinobenzamide. There was thus obtained the title compound in 98% yield: NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 3.17 (m, 4H), 3.75 (m, 4H), 4.85 (s, 2H), 7.13 (d, 1H), 7.22 (d, 1H), 7.34 (m, 2H), 7.44 (s, 1H), 7.54 (m, 2H), 7.65 (d, 1H), 7.79 (s, 1H), 7.95 (d, 1H), 8.03 (s, 1H), 9.96 (s, 1H), 10.12 (s, 1H); Mass Spectrum: M+H+464.

reactant | 3-chloromethylbenzoyl chloride | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
reactant | N-(3-amino-4-methylphenyl)-3-morpholinobenzamide | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N1CCOCC1)=O | C18H21N3O2
product | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-chloromethylbenzamide | 98% yield | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=CC=C1)CCl)=O | C26H26ClN3O3
